US05178663
That is, to ethyl 2,3-epoxybutanoate (13.0 g, 0.1 mol) dissolved in isopropanol (30 ml) was added sulfuric acid (0.5 ml), and the mixture was stirred at 60° C. for 5 hours. Subsequently, excessive isopropanol was removed under reduced pressure to obtain ethyl 3-(isopropoxy)-2-hydroxybutanoate. The product obtained and p-toluenesulfonyl chloride (20.9 g, 0.11 mol) were added to pyridine (50 ml), and the mixture was stirred at room temperature for 5 hours. Subsequently, water was added to the reaction mixture, and the oily product liberated was extracted with toluene. After the toluene layer was washed with water and dried over sodium sulfate, toluene was removed under reduced pressure. The oily product obtained was isolated by silica gel column chromatography (Wako gel C-200 (trade name, produced by Wako Junyaku K.K.), eluted by hexane: ethyl acetate=9:1) to obtain ethyl 3-(isopropoxy)-2-p-toluenesulfonyloxybutanoate (27.5 g).

reactant | ethyl 2,3-epoxybutanoate | 0.1 mol, 13.0 g | O1C(C(=O)OCC)C1C | C6H10O3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | ethyl 3-(isopropoxy)-2-hydroxybutanoate | C(C)(C)OC(C(C(=O)OCC)O)C | C9H18O4
